US04550105
To a mixture solution of 20ml of water and 25 ml of ethanol are added 7.0 g of 4-chloro-2-(n-propoxyimino)acetoacetic acid methyl ester, 2.4 g of thiourea and 4.3 g of sodium acetate(trihydrate). The mixture is stirred for one hour at 40° C. The reaction mixture is, under cooling, adjusted to pH 6.5 with a saturated aqueous solution of potassium carbonate, followed by stirring for 30 minutes. The resulting crystals are collected by filtration, washed with water and isopropyl ether in this order, and dried to yield 2-(2-amino-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester as crystals, m.p. 115°-116° C.

reactant | water | 20ml | O | H2O
reactant | 4-chloro-2-(n-propoxyimino)acetoacetic acid methyl ester | 7.0 g | COC(C(C(=O)CCl)=NOCCC)=O | C8H12ClNO4
reactant | thiourea | 2.4 g | NC(=S)N | CH4N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(2-amino-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester | COC(\C(=N/OCCC)\C=1N=C(SC1)N)=O | C9H13N3O3S
